US05294612
A mixture of cyclopentyl hydrazine hydrochloride (1.4 g, 10.2 mmol), sodium methoxide (0.55 g, 10.2 mmol) and ethanol (30 ml) was heated to reflux and then (1-methoxyphenylethylidene)malononitrile (2.0 g, 10.2 mmol) in ethanol (15 ml) was added dropwise over 1 hour. The reaction mixture was refluxed for 6.5 hours and the solvent was removed in vacuo. The residue was partitioned between chloroform and water, the organic layer was separated and the aqueous layer was extracted with chloroform (3×75 ml). The combined organic layers were washed with brine, dried over anhydrous MgSO4 and concentrated in vacuo to afford 0.7 g (26%) of 1-cyclopentyl-3-phenylmethyl-5-amino-1H-pyrazole-4-carbonitrile as white flakes, m.p. 180°-182° C. when recrystallized from ethyl acetate and dried for 18 hours at 90° C. in high vacuum.

reactant | cyclopentyl hydrazine hydrochloride | 10.2 mmol, 1.4 g | Cl.C1(CCCC1)NN
reactant | sodium methoxide | 10.2 mmol, 0.55 g | C[O-].[Na+]
reactant | (1-methoxyphenylethylidene)malononitrile | 10.2 mmol, 2.0 g | COC1(CC=CC=C1)CC=C(C#N)C#N | C12H12N2O
solvent | ethanol | 15 ml | C(C)O | C2H6O
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 1-cyclopentyl-3-phenylmethyl-5-amino-1H-pyrazole-4-carbonitrile | 0.7 g, 26% | C1(CCCC1)N1N=C(C(=C1N)C#N)CC1=CC=CC=C1 | C16H18N4
